US04171318
A solution of 0.5 g. (12.5 mmol) of sodium hydroxide in 4 ml. of water was added to a solution of 1.0 g. (3 mmole) of methyl 2E,4E,6Z,8E-3,7-dimethyl-6-fluoro-9-(2,4,5-trimethyl-3-thienyl)-2,4,6,8-nonatetraenoate in 10 ml. of absolute ethanol. The mixture was stirred at 45° C. for 4 hours. The solution was cooled to room temperature, acidified with 3 N hydrochloric acid and filtered. The crude orange solid was purified by silica gel chromatography, euted with hexane-ethyl acetate (3:5 parts by volume) and crystallized from hexane-ethyl acetate (1:1 parts by volume) to give 600 mg. (62% yield) of 2E,4E,6Z,8E-3,7-dimethyl-6-fluoro-9-(2,4,5-trimethyl-3-thienyl)-2,4,6,8-nonatetraenoic acid orange crystals, m.p. 217°-223° C.

reactant | sodium hydroxide | 12.5 mmol | [OH-].[Na+]
reactant | water | O | H2O
reactant | methyl 2E,4E,6Z,8E-3,7-dimethyl-6-fluoro-9-(2,4,5-trimethyl-3-thienyl)-2,4,6,8-nonatetraenoate | 3 mmole | C\C(=C/C(=O)OC)\C=C\C(=C(\C=C\C1=C(SC(=C1C)C)C)/C)\F | C19H23FO2S
reactant | hydrochloric acid | 3 N | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 2E,4E,6Z,8E-3,7-dimethyl-6-fluoro-9-(2,4,5-trimethyl-3-thienyl)-2,4,6,8-nonatetraenoic acid | 62% yield | C\C(=C/C(=O)O)\C=C\C(=C(\C=C\C1=C(SC(=C1C)C)C)/C)\F | C18H21FO2S
